US04006182
Into a mixture of 59 gm of acetamide and 82 gm of phosphorous acid, hydrogen chloride gas was introduced therein for a period of 3 hours. During this time the mixture was stirred and the temperature was maintained at 145° - 155° C. By further processing of the reaction mixture, analogously to Example 1, the 1-aminoethane-1,1 -diphosphonic acid was isolated and purified. The yield was 19.2 gm.

reactant | acetamide | 59 gm | C(C)(=O)N | C2H5NO
reactant | phosphorous acid | 82 gm | P(O)(O)O | H3O3P
reactant | hydrogen chloride | Cl | ClH
product | 1-aminoethane-1,1 -diphosphonic acid | NC(C)(P(O)(=O)O)P(O)(=O)O | C2H9NO6P2
